US07960552B2
To a solution of 2,6-dimethylphenol (184 mg, 1.51 mmol), triphenylphosphine (396 mg, 1.51 mmol), and methyl 3-(hydroxymethyl)-5-(1-methylethyl)-4-isoxazolecarboxylate (300 mg, 1.51 mmol) in toluene (4 mL) was slowly added diisopropyl azodicarboxylate (0.272 mL, 1.51 mmol). The solution was heated in a microwave reactor at 90° C. for 10 minutes and then allowed to stand at ambient temperature overnight. The solution was concentrated and purified by chromatography (silica gel, 2.5% acetone in hexanes) to afford methyl 3-{[(2,6-dimethylphenyl)oxy]methyl}-5-(1-methylethyl)-4-isoxazolecarboxylate (329 mg, 72%). 1H-NMR (400 MHz, DMSO-d6) δ 7.02-6.90 (m, 3H), 5.00 (s, 2H), 3.74 (s, 3H), 3.72 (septet, J=7 Hz, 1H), 2.17 (s, 6H), 1.28 (d, J=7 Hz, 6H).

reactant | 2,6-dimethylphenol | 1.51 mmol, 184 mg | CC1=C(C(=CC=C1)C)O | C8H10O
reactant | triphenylphosphine | 1.51 mmol, 396 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methyl 3-(hydroxymethyl)-5-(1-methylethyl)-4-isoxazolecarboxylate | 1.51 mmol, 300 mg | OCC1=NOC(=C1C(=O)OC)C(C)C | C9H13NO4
reactant | diisopropyl azodicarboxylate | 1.51 mmol, 0.272 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 3-{[(2,6-dimethylphenyl)oxy]methyl}-5-(1-methylethyl)-4-isoxazolecarboxylate | 329 mg, 72% | CC1=C(C(=CC=C1)C)OCC1=NOC(=C1C(=O)OC)C(C)C | C17H21NO4
